Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]1([H:7])[C+:2]([H:8])[C:5]([N:4]([C-:3][H:9])[H:10])([H:11])[C:6]1[H:12]>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]3([H:9])[N:4]([H:10])[C@@:5]2([H:11])[C@:6]13[H:12],17.541643901397894
[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([N+:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],89.28926408230379
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4]([C:5]([H:14])([H:15])[H:16])=[C:6](/[O:7][H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],65.5120021880035
[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7]>>[C-:2]#[O+:3].[C:4](=[O:5])([H:8])[H:9].[N:1]([H:6])([H:7])[H:10],44.0958160204385
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],75.6947832259493
[C:1](=[C:2]=[C:3]=[C:4]([H:10])[H:11])([H:7])[H:9].[C:5](#[N:6])[H:8]>>[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],39.43757956925731
[C:1]1([H:8])([H:10])[C@:2]([O:3][H:12])([H:11])[C@:4]1([O:5][H:9])[C:6]#[C:7][H:13]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],59.05346145971809
[C:1]([C@:2]1([H:11])[C@@:4]([C:6]#[N:7])([H:13])[C:5]1([H:14])[H:15])([H:8])([H:9])[H:10].[O:3]([H:12])[H:16]>>[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10],65.03548304195459
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:16])([H:17])[H:18],114.329724499269
[C:1]([C@@:2]1([H:9])[O:3][C:5]([H:10])([H:11])[C:4]1)([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[C:5][H:11])[H:9])([H:6])([H:7])[H:8],32.04473199478959
[C:1]([O:2][O:7][C:6]1([H:13])[N:4]([H:11])[C:3][N:5]1[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],13.789329535154991
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]([H:10])[H:11])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:13].[H:12][H:14],59.3596270056627
[C:1](=[C:2]=[C:3]1[C:4]([H:10])([H:11])[C:5]1=[O:6])([H:7])[H:8].[H:9][H:12]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],45.30608819910841
[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[H:12])[H:11])([H:8])([H:9])[H:10].[N:5]1=[C:6]([H:13])[N:7]1[H:14],89.33693538622991
[N:1]1([H:9])[C@@:2]([C:6]#[N:7])([H:10])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14].[O:5]([H:8])[H:15]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],54.6069610395936
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:5]1=[N:6][C@@:3]1([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],70.5986222827467
[O:1]([C:2]([C:3]#[C:4][O:7][C:6](=[C:5]([H:11])[H:12])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],61.4176945110936
[N:1]([C:2]/[C:3](=[N:4]\[N:5]=[O:6])[H:9])([H:7])[H:8]>>[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8],19.529480185574798
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:6]=[C:7]1[H:15].[O:5]([H:8])[H:14],45.474103910594394
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[O:3]=[C:4]([N:5]([H:10])[H:13])[C:6]#[N:7],33.7583855694696
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:7])([H:8])[H:9].[H:10][H:11],75.90698080794141
[C:1]([N-:2][N+:3]#[C:4][H:10])([H:7])([H:8])[H:9].[N:5]#[N:6]>>[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9],16.482513754757502
[C:1]1([H:6])([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:15])([H:10])[H:11])([H:8])[H:9])([C:5][H:14])([H:6])[H:7],87.94697804530857
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[O-:1][O+:6]=[C:5]([C:4]1=[C:3]=[C:2]1[H:7])[H:8],138.128519084536
[O:1]([C:2]([C+:3]=[C:5]=[N-:6])([H:8])[H:9])[H:7].[O:4]([H:10])[H:11]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],3.804788467011896
[O:1]([C@@:2]([C:3]([C:4][H:11])([H:9])[H:10])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],7.489998540312001
